US07405232B2
N-(5-{2-[3-(3-benzo[1,3]dioxol-5-yl-5-methyl-[1,2,4]triazol-1-yl)-1,1-dimethyl-propylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide
Analogously to the method described for Example 7, 379 mg (1 mmol) N-[2-benzyloxy-5-[2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide and 288 mg (1 mmol) 3-(3-benzo[1,3]dioxol-5-yl-5-methyl-[1,2,4]triazol-1-yl)-1,1-dimethyl-propylamine are reacted with one another. The subsequent debenzylation yields the target compound.

reactant | N-[2-benzyloxy-5-[2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide | 1 mmol, 379 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(O)OCC)=O)NS(=O)(=O)C | C18H21NO6S
reactant | 3-(3-benzo[1,3]dioxol-5-yl-5-methyl-[1,2,4]triazol-1-yl)-1,1-dimethyl-propylamine | 1 mmol, 288 mg | O1COC2=C1C=CC(=C2)C2=NN(C(=N2)C)CCC(C)(C)N | C15H20N4O2
product | N-(5-{2-[3-(3-benzo[1,3]dioxol-5-yl-5-methyl-[1,2,4]triazol-1-yl)-1,1-dimethyl-propylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide | O1COC2=C1C=CC(=C2)C2=NN(C(=N2)C)CCC(C)(C)NCC(O)C=2C=CC(=C(C2)NS(=O)(=O)C)O | C24H31N5O6S
